US07741324B2
5-(3-benzyloxy-phenyl)-7-cyclobutyl-imidazo[5,1-f][1,2,4]triazin-4-ylamine (Compound of Formula I where R1=cyclobutyl and Q1=Ph-(3-OBn)) was prepared as follows:
To a solution of 1,2,4-triazole (167 mg, 2.417 mmol) in anhydrous pyridine (1.5 mL) was added phosphorous oxychloride (POCl3) (75 μL, 0.806 mmol) and stirred at rt for 15 min. To this mixture was added dropwise a solution of 5-(3-benzyloxy-phenyl)-7-cyclobutyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one (100 mg, 0.269 mmol) in anhydrous pyridine (2.5 mL) over a 3.5 min period and stirred at rt for an additional 3 h. The reaction was cooled to 0° C. and quenched with 2M NH3 in i-PrOH (10 mL ) and stirred for an additional 30 min at rt. The mixture was filtered through a fritted funnel and the filtrate was concentrated in vacuo, partitioned between CHCl3 and H2O and separated. The aqueous layer was re-extracted with CHCl3 (3×) and the combined CHCl3 fractions were washed with brine (1×), dried over Na2SO4, filtered and concentrated in vacuo and the crude material was chromatographed on silica gel [eluting with 2% MEOH in CHCl3] resulting in a dark brown oil which was crystallized from EtOAc/hexanes to obtain the title compound as a light tan solid. 1H NMR (CDCl3, 400 MHz) δ 1.95-2.08 (m, 1H), 2.09-2.22 (m, 1H), 2.39-2.50 (m, 2H), 2.59-2.72 (m, 2H), 4.14 (quint, J=8.4 Hz, 1H), 5.16 (s, 2H), 5.57 (brs, 2H), 7.02-7.09 (m, 1H), 7.22-7.28 (m, 3H), 7.31-7.50 (m, 5H), 7.85 (s, 1H); MS (ES+): m/z 372.1 (100) [MH+]; HPLC: tR=3.05 min (MicromassZQ, nonpolar—5 min).

reactant | 1,2,4-triazole | 2.417 mmol, 167 mg | N1N=CN=C1 | C2H3N3
reactant | phosphorous oxychloride | 0.806 mmol, 75 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 5-(3-benzyloxy-phenyl)-7-cyclobutyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 0.269 mmol, 100 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2N=CNC(C21)=O)C2CCC2 | C22H20N4O2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
product | 5-(3-benzyloxy-phenyl)-7-cyclobutyl-imidazo[5,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2N=CN=C(C21)N)C2CCC2 | C22H21N5O
